* Created by KLayout

* cell INV_X2
* pin VSS
.SUBCKT INV_X2 4
* net 4 VSS
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 2 3 1 1 PMOS_mst L=1U W=20.4U AS=43.86P AD=43.86P PS=39.2U PD=39.2U
* device instance $3 r0 *1 6.1,6.8 NMOS_mst
M$3 2 3 4 4 NMOS_mst L=1U W=6.8U AS=14.62P AD=14.62P PS=18.8U PD=18.8U
.ENDS INV_X2
